US05939439
Step 5: Methanesulfonic acid 3-(4-cyano-phenyl)-3-imidazol-1-yl-propyl ester
The 4-(3-hydroxy-1-imidazol-1-yl-propyl)-benzonitrile (1.4 gm, 6.16 mmol) was suspended in 2:1 methylene chloride: THF (100 mL) under argon and cooled to 0° C. in an ice bath. Methanesulfonylchloride (1 mL, 12.4 mmol) was added followed by diisopropylethylamine (3.22 mL, 18.5 mmol). The reaction was stirred for 4 hours and the solvent was removed in vacuo. The residue was suspended in ethyl acetate (200 mL) and extracted 2 times with saturated aqueous sodium bicarbonate (100 mL), then water (100 mL), then saturated sodium chloride solution (100 mL). The organic solvent was removed in vacuo and the residue was chromatographed on silica gel using using 1:3 ethyl acatate: hexanes. The desired fractions were concentrated in vacuo to give the desired product.

reactant | 4-(3-hydroxy-1-imidazol-1-yl-propyl)-benzonitrile | 6.16 mmol, 1.4 gm | OCCC(N1C=NC=C1)C1=CC=C(C#N)C=C1 | C13H13N3O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | Methanesulfonylchloride | 12.4 mmol, 1 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropylethylamine | 18.5 mmol, 3.22 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Methanesulfonic acid 3-(4-cyano-phenyl)-3-imidazol-1-yl-propyl ester | C(#N)C1=CC=C(C=C1)C(CCOS(=O)(=O)C)N1C=NC=C1 | C14H15N3O3S
